US07166598B2
Sodium hydride (60% in mineral oil, 18 mg) was added by small portions to an ice-cooled solution of (2R)-4-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3-hydroxy-4-methylbenzyl)piperazine (0.20 g) in N,N-dimethylformamide (2 ml) below 5° C. under nitrogen atmosphere. After the mixture was stirred for 5 minutes, (2-methoxyethoxy)methyl chloride (0.064 ml) was added to the mixture. The whole was stirred at room temperature for 2.5 hours, and thereto water was added. The whole was extracted with ethyl acetate. The extract was dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using mixed solvents of hexane and ethyl acetate (7:3). The fractions containing the objective compound were collected and evaporated under reduced pressure to give (2R)-4-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[3-[(2-methoxyethoxy)methoxy]-4-methylbenzyl]piperazine (0.21 g) as an oil.

reactant | Sodium hydride | 18 mg | [H-].[Na+]
reactant | (2R)-4-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3-hydroxy-4-methylbenzyl)piperazine | 0.20 g | C(C1=CC=CC=C1)N1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CC(=C(C=C1)C)O | C28H26F6N2O2
reactant | (2-methoxyethoxy)methyl chloride | 0.064 ml | COCCOCCl | C4H9ClO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (2R)-4-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[3-[(2-methoxyethoxy)methoxy]-4-methylbenzyl]piperazine | 0.21 g | C(C1=CC=CC=C1)N1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CC(=C(C=C1)C)OCOCCOC | C32H34F6N2O4
